US05750531
Synthesis of 2-(4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-5,6,7,8-tetrahydroquinazoline hydrochloride
After 4-fluoroaniline(0.60 ml, 6.3 mmol) was added to a mixture solution of 4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloro-5,6,7,8-tetrahydroquinazoline(0.90 g, 3.0 mmol) and dimethylformamide(5 ml), 0.62 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoroaniline | 6.3 mmol, 0.60 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | 4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-2-chloro-5,6,7,8-tetrahydroquinazoline | 3.0 mmol, 0.90 g | C1N(CCC2=CC=CC=C12)C1=NC(=NC=2CCCCC12)Cl | C17H18ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(4-fluorophenylamino)-4-(1,2,3,4-tetrahydroisoquinolin-2-yl)-5,6,7,8-tetrahydroquinazoline hydrochloride | 0.62 g, Yield: 50% | Cl.FC1=CC=C(C=C1)NC1=NC=2CCCCC2C(=N1)N1CC2=CC=CC=C2CC1 | InChI=1S/C23H23FN4.ClH/c24-18-9-11-19(12-10-18)25-23-26-21-8-4-3-7-20(21)22(27-23)28-14-13-16-5-1-2-6-17(16)15-28;/h1-2,5-6,9-12H,3-4,7-8,13-15H2,(H,25,26,27);1H
